US04929741
A solution of 10.7 g (32 mmol) of 3-methyl-2-butenyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate in 200 ml of methylene chloride was added dropwise at 0° to a suspension of 84 g (0.97 mol) of manganese dioxide in 200 ml of methylene chloride. The reaction mixture was stirred at 0° for 2 hours, filtered over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 500 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1) and crystallized from ether/hexane. There was obtained 3-methyl-2-butenyl 3-(3,4,5-trimethoxybenzoyl)propiolate of melting point 52°-53°.

reactant | 3-methyl-2-butenyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate | 32 mmol, 10.7 g | OC(C#CC(=O)OCC=C(C)C)C1=CC(=C(C(=C1)OC)OC)OC | C18H22O6
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.97 mol, 84 g | [O-2].[O-2].[Mn+4]
product | 3-methyl-2-butenyl 3-(3,4,5-trimethoxybenzoyl)propiolate | COC=1C=C(C(=O)C#CC(=O)OCC=C(C)C)C=C(C1OC)OC | C18H20O6
